US09056874B2
tert-Butyl (5-methyl-1-tosyl-1H-indol-4-yl)carbamate
To a solution of tert-butyl (5-bromo-1-tosyl-1H-indol-4-yl)carbamate (9.95 g, 21.38 mmol) in toluene (194 mL) was added potassium methyltrifluoroborate (13 g, 107 mmol) and PdCl2(dppf).CH2Cl2 adduct (1.75 g, 2.138 mmol) and Cs2CO3 (20.90 g, 64.1 mmol) and finally water (19.44 mL), and the mixture was stirred at 100° C. After stirring overnight the reaction was cooled to room temperature and 1N HCl (100 mL) was added. The layers were separated and the aqueous layer was extracted with EtOAc, washed with 1N HCl, dried over MgSO4, filtered and concentrated to provide the title compound, which was used in the next reaction without any further purification. MS (ESI−) m/z 399.2 (M−H).

reactant | tert-butyl (5-bromo-1-tosyl-1H-indol-4-yl)carbamate | 21.38 mmol, 9.95 g | BrC=1C(=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)NC(OC(C)(C)C)=O | C20H21BrN2O4S
reactant | potassium methyltrifluoroborate | 107 mmol, 13 g | C[B-](F)(F)F.[K+]
reactant | CH2Cl2 | 2.138 mmol, 1.75 g | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 64.1 mmol, 20.90 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | toluene | 194 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 19.44 mL | O | H2O
product | tert-Butyl (5-methyl-1-tosyl-1H-indol-4-yl)carbamate | CC=1C(=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)NC(OC(C)(C)C)=O | C21H24N2O4S
